US05962531
A solution of 2-methoxynaphthalene (20.0 g, 120 mmol) and 4-fluorobenzoyl chloride (15 ml, 126 mmol) in methylene chloride (200 ml) was cooled in an ice bath under nitrogen and aluminum chloride (18.5 g, 129 mmol, 1.1 equiv.) was added portionwise over 10 minutes. The reaction mixture was stirred at room temperature for 3 h and then poured into 2N HCl (500 ml). The product was extracted into methylene chloride, and washed with brine, and dried over sodium sulfate. The organic layer was concentrated in vacuo to give 34.6 g of 1-(4-fluorobenzoyl)-2-methoxynaphthalene as a solid (97% yield) which was used in the next step without further purification.

reactant | 2-methoxynaphthalene | 120 mmol, 20.0 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | 4-fluorobenzoyl chloride | 126 mmol, 15 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | aluminum chloride | 129 mmol, 18.5 g, 1.1 equiv. | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2N, 500 ml | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-fluorobenzoyl)-2-methoxynaphthalene | 34.6 g, 97% yield | FC1=CC=C(C(=O)C2=C(C=CC3=CC=CC=C23)OC)C=C1 | C18H13FO2
